US05480969
D-PicLys was substituted by D-3Pal, D-Trp, D-PzcLys, D-2-Nal and D-NicLys. Peptides 7 and 10 with D-3-Pal and D-2-Nal, respectively, were inactive at 0.25 μg. D-Trp is neutral and D-PzcLys is less basic than D-PicLys. These amino acids might be a good choice for lowering histamine release. Analog 11 with D-NicLys showed 67% AOA/0.25 μg which confirms past results that picolinic acid is superior to nicotinic acid for acylation of lysine.

reactant | D-3Pal | N[C@H](CC1=CC=CN=C1)C(=O)O | C8H10N2O2
reactant | D-Trp | C=1C=CC2=C(C1)C(=CN2)C[C@H](C(=O)O)N | C11H12N2O2
reactant | D-2-Nal | N[C@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | histamine | NCCC1=CNC=N1 | C5H9N3
product | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
